US08278290B2
(iii) 2-t-Butyldimethylsilyl-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran
To a stirred solution of 3,4,5-trimethoxy-iodobenzene (377 mg, 1.27 mmol) in dry tetrahydrofuran (1 mL) at −78° C. under nitrogen was added n-butyllithium (795 μL, 1.59 mmol, 2M solution in cyclohexane) and the reaction mixture was stirred at this temperature for 40 minutes. After this time a solution of 2-t-butyldimethylsilyl-3-formyl-6-methoxy-benzofuran (310 mg, 1.07 mmol) in dry tetrahydrofuran (1 mL) was added to the reaction dropwise via syringe pipette. The reaction mixture was stirred at −60° C. for 20 minutes and then allowed to warm to 0° C., stirred for 10 minutes, quenched with saturated ammonium chloride solution (2 mL) and diluted with ethyl acetate (20 mL). The organic layer was washed with water (10 mL), dried over magnesium sulphate and the solvent was removed under vacuum to give a residue that was co-distilled with toluene. The crude product (908 mg) was dissolved in dry tetrahydrofuran (10 mL) and treated with 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (900 mg, 1.59 mmol) was added. The reaction mixture was stirred at room temperature for 16 hours (tlc) and then loaded onto silica (10 g) and purified by flash chromatography (silica gel, eluent=hexane/diethyl ether/triethylamine, 90:9:1) to afford the title compound as a light yellow paste that crystallised on standing; (232 mg, 48%); 1H NMR (300 MHz, CDCl3) δ 7.14(s, 2H, benzoyl Hs), 7.05(d, 1H, J=2.45 Hz), 6.77(dd, 1H, J=8.76, 2.17 Hz), 6.56(d, 1H, J=8.38 Hz), 3.94(s, 3H, OMe), 3.85(s, 6H, 2×OMe), 3.78(s, 3H, OMe), 1.00(s, 9H), 0.28(s, 6H); 13C NMR (75 MHz, CDCl3) δ 190.51(CO), 164.77, 158.23, 158.12, 152.64, 142.35, 133.19, 131.37, 123.19, 121.04, 119.63, 112.26, 107.03, 104.96, 95.00, 60.47, 55.81, 55.60, 55.13, 26.43, 17.29, −6.09.

reactant | 3,4,5-trimethoxy-iodobenzene | 1.27 mmol, 377 mg | COC=1C=C(C=C(C1OC)OC)I | C9H11IO3
reactant | n-butyllithium | 1.59 mmol, 2M, 795 μL | C(CCC)[Li]
reactant | 2-t-butyldimethylsilyl-3-formyl-6-methoxy-benzofuran | 1.07 mmol, 310 mg | [Si](C)(C)(C(C)(C)C)C=1OC2=C(C1C=O)C=CC(=C2)OC | C16H22O3Si
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 1.59 mmol, 900 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-t-Butyldimethylsilyl-3-(3,4,5-trimethoxybenzoyl)-6-methoxy-benzofuran | [Si](C)(C)(C(C)(C)C)C=1OC2=C(C1C(C1=CC(=C(C(=C1)OC)OC)OC)=O)C=CC(=C2)OC | C25H32O6Si
